US07714022B2
1,3-Diphenyl-pentane-1,4-dione:
1-Trimethylsilanyl-ethanone (1.15 mL; 8.02 mmol) followed by DBU (0.18 mL; 1.2 mmol) were added to a suspension of 3-ethyl-5-(2-hydroxyethyl)-4-methylthiazolium bromide (304 mg; 1.21 mmol) in dry THF (5 mL). The mixture was heated at 70° C. for 4 min, cooled near rt, then chalcone (833 mg; 4.00 mmol) and 2-propanol (1.22 mL; 15.9 mmol) were added. The reaction was degassed and reacted under nitrogen at 70° C. After 24 h, the reaction was concentrated on a rotary evaporator. Ethyl acetate (25 mL) was added and this washed with H2O (3×3 mL) and satd NaCl (2×3 mL). The organic portion was dried (MgSO4) and filtered through silica with an EtOAc wash. Crude product was adsorbed onto silica (2 g) then purified by MPLC (40 g of silica using a 0→20% EtOAc in hexanes gradient). Pure product was obtained as a clear, colorless viscous liquid (980 mg; 97%). 1H NMR (CDCl3) δ 7.98-7.94 (m, 2H), 7.56 (m, 1H), 7.47-7.42 (m, 2H), 7.39-7.27 (m, 5H), 4.44 (dd, J=3.6, 10.0 Hz, 1H), 4.02 (dd, J=10.0, 18.0 Hz, 1H), 3.14 (dd, J=3.6, 18.0 Hz, 1H); GC-MS 252 ([M]+).

reactant | 1-Trimethylsilanyl-ethanone | 8.02 mmol, 1.15 mL | C[Si](C(C)=O)(C)C | C5H12OSi
reactant | DBU | 1.2 mmol, 0.18 mL | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | chalcone | 4.00 mmol, 833 mg | C1(=CC=CC=C1)C=CC(=O)C1=CC=CC=C1 | C15H12O
reactant | 2-propanol | 15.9 mmol, 1.22 mL | CC(C)O | C3H8O
catalyst | 3-ethyl-5-(2-hydroxyethyl)-4-methylthiazolium bromide | 1.21 mmol, 304 mg | [Br-].C(C)[N+]1=CSC(=C1C)CCO
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 1,3-Diphenyl-pentane-1,4-dione | C1(=CC=CC=C1)C(CC(C(C)=O)C1=CC=CC=C1)=O | C17H16O2
